US05081271
a) 1-Nitro-3,5-bis(trimethylsilyl)benzene
To a solution of 1.18 g (4.00 mmol) of sym-tris(trimethylsilyl)benzene in 1.7 ml of acetic anhydride was added a solution of 0.4 ml (9.1 mmol) of 94% nitric acid in 1.7 ml of acetic anhydride at -10° C. The mixture was stirred at 10 to -5° C. for 2 hours and then at room temperature for 22 hours. The reaction mixture was poured into sodium hydroxide solution and the aqueous solution was extracted with methylene chloride. The extract was evaporated. The residue was purified by column chromatography on silica gel [eluent: petroleum ether] to give 636 mg of pale yellow crystals, m.p.86°-87° C. (yield 59%).

reactant | tris(trimethylsilyl)benzene | C[Si](C)(C)C=1C(=C(C=CC1)[Si](C)(C)C)[Si](C)(C)C | C15H30Si3
reactant | nitric acid | 9.1 mmol, 0.4 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic anhydride | 1.7 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 1.7 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Nitro-3,5-bis(trimethylsilyl)benzene | 636 mg, yield 59% | [N+](=O)([O-])C1=CC(=CC(=C1)[Si](C)(C)C)[Si](C)(C)C | C12H21NO2Si2
